US08003669B2
(R)-Acenaphthen-1-yl-amine•hydrochloride (25 g) was dissolved in water (200 ml) and the mixture was alkalified with potassium carbonate and extracted with chloroform. The extract was washed with water and saturated brine, dried over magnesium sulfate, and concentrated. The obtained (R)-acenaphthen-1-yl-amine (21 g, 124 mmol) was dissolved in ethanol (200 ml). Potassium carbonate (2.5 g, 18 mmol) and 1-ethyl-1-methyl-4-oxopiperidinium iodide (40 g) dissolved in water (100 ml) was added and the mixture was heated under reflux for 2 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over magnesium sulfate, and concentrated. The obtained residue was purified by silica gel column chromatography (chloroform/methanol) to give (R)-1-(acenaphthen-1-yl)-piperidin-4-one (22 g) as a red-yellow oil. (4) A solution of (R)-1-(acenaphthen-1-yl)-piperidin-4-one (12.6 g, 50 mmol) and 1,2-phenylenediamine (10.8 g, 100 mmol) in THF (100 ml) was cooled to (0° C.), sodium triacetoxy borohydride (30 g) and acetic acid (12 ml) were added thereto, and the mixture was stirred at room temperature for 24 hr. The reaction mixture was poured into water, and potassium carbonate was added for neutralization. The mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over sodium sulfate, and concentrated. The obtained residue was purified by silica gel column chromatography (chloroform/methanol) to give (R)—N-[1-(acenaphthen-1-yl)piperidin-4-yl]-benzene-1,2-diamine (9 g) as yellow crystals. (5) (R)—N-[1-(Acenaphthen-1-yl)piperidin-4-yl]-benzene-1,2-diamine (9 g, 26 mmol) was dissolved in THF (100 ml), and carbonyldiimidazole (5 g, 30 mmol) was added. The mixture was stirred at room temperature for 2 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated aqueous ammonium chloride solution, dried over magnesium sulfate, and concentrated. The obtained residue was purified by silica gel column chromatography (chloroform/methanol) to give the title compound (8.8 g) as a white solid.

reactant | (R)-1-(acenaphthen-1-yl)-piperidin-4-one | 50 mmol, 12.6 g | [C@H]1(CC2=CC=CC3=CC=CC1=C23)N2CCC(CC2)=O | C17H17NO
reactant | 1,2-phenylenediamine | 100 mmol, 10.8 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | sodium triacetoxy borohydride | 30 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
product | (R)—N-[1-(acenaphthen-1-yl)piperidin-4-yl]-benzene-1,2-diamine | 9 g | [C@H]1(CC2=CC=CC3=CC=CC1=C23)N2CCC(CC2)NC=2C(=CC=CC2)N | C23H25N3
